US05143910
To a solution of 6-chloro-3,4-bis(p-methoxybenzyloxy)benzoic acid (94 g: 218 mMol.) in tetrahydrofuran (1 liter) are added dicyclohexylcarbodiimide (50 g: 1.1 Eq.) and N-hydroxybenzotriazole (33 g: 1.1 Eq.), and the mixture is stirred at room temperature for 90 minutes. To the reaction mixture is added N-methylpiperazine (48 ml: 2 Eq.) and the resulting precipitate is filtered off. The filtrate is concentrated under reduced pressure, diluted with ethyl acetate, washed with aqueous sodium hydroxide and water, dried and concentrated in vacuum. The residue is treated in dichloromethane and ether to remove a small amount of insoluble material and concentrated under reduced pressure to give 1-(6-chloro-3,4-bis(p-methoxybenzyloxy)benzoyl-4-methylpiperazine (108 g). Yield: 97%.

reactant | 6-chloro-3,4-bis(p-methoxybenzyloxy)benzoic acid | 218 mMol, 94 g | ClC1=CC(=C(C=C1C(=O)O)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC | C23H21ClO6
reactant | dicyclohexylcarbodiimide | 50 g, 1.1 Eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxybenzotriazole | 33 g, 1.1 Eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylpiperazine | 48 ml, 2 Eq. | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 6-chloro-3,4-bis(p-methoxybenzyloxy)benzoyl-4-methylpiperazine | 108 g, Yield: 97% | ClC1=CC(=C(C=C1C(=O)N1CCN(CC1)C)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC | C28H31ClN2O5
